US06180635B2
4-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)sulfonyl]butanoic acid
Sodium hydroxide solution (1M, 1 ml) was added to a stirred suspension of methyl 4-[(1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)sulfonyl]butanoate (0.10 g) in methanol (3 ml) and tetrahydofuran (3 ml). After 4 hours, the reaction mixture was diluted with water (20 ml), acidified with hydrochloric acid (2M) and extracted with ethyl acetate (2×30 ml). The organic extracts were evaporated under reduced pressure. The residue was partitioned between ether (30 ml) and aqueous sodium hydroxide solution (0.1M, 30 ml). The aqueous phase was acidified with hydrochloric acid (2M) and extracted with ethyl acetate (2×30 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was triturated with ethyl acetate/hexane to give the title compound (0.028 g).

reactant | Sodium hydroxide | 1M, 1 ml | [OH-].[Na+]
reactant | methyl 4-[(1,2,3,4-tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)sulfonyl]butanoate | 0.10 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)S(=O)(=O)CCCC(=O)OC)CC(C)C)=O | C27H30N2O6S2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
solvent | tetrahydofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 4-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)sulfonyl]butanoic acid | 0.028 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)S(=O)(=O)CCCC(=O)O)CC(C)C)=O | C26H28N2O6S2
